US09145419B2
3C. 6-Chloro-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine
A microwave vial was charged with a mixture of 8-bromo-6-chloroimidazo[1,2-b]pyridazine (1.1 g, 4.73 mmol), 4-methylpyridin-3-ylboronic acid (0.648 g, 4.73 mmol), tetrakis(triphenylphosphine)palladium(0) (0.547 g, 0.473 mmol), dioxane (14 mL), and K3PO4 (7.10 mL, 14.20 mmol) (2.0 M water solution) was stirred at room temperature for 5 min. under nitrogen. The resulting mixture was heated to 100° C. for 8 h in microwave. The reaction mixture was cooled to room temperature, quenched with water, and diluted with EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by BIOTAGE® (20-80% EtOAc/CH2Cl2, 1.5 L, then 20%-65% B/CH2Cl2, 0.9 L; B: 10% MeOH/CH2Cl2) to give 400 mg (34%) product. 1H NMR (400 MHz, CD3OD) δ ppm 9.00 (1H, s), 8.80 (1H, d, J=5.79 Hz), 8.38 (1H, d, J=1.51 Hz), 8.04 (1H, d, J=6.04 Hz), 7.96 (1H, d, J=1.51 Hz), 7.86 (1H, s), 2.73 (3H, s); LC/MS: Rt=0.98 min. LC/MS (Condition A): 245.11/247.08.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 4.73 mmol, 1.1 g | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | 4-methylpyridin-3-ylboronic acid | 4.73 mmol, 0.648 g | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | K3PO4 | 14.20 mmol, 2.0 M, 7.10 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.473 mmol, 0.547 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine | 400 mg, 34% | ClC=1C=C(C=2N(N1)C=CN2)C=2C=NC=CC2C | C12H9ClN4
